US07619086B2
Step 3: 5-(Pyrimidin-2-yl)-2-(4-fluorobenzyl)-8-hydroxy-6-methyl-2,3,4,4a,5,6-hexahydro-2,6-naphthyridine-1,7-dione
To a cooled (−78° C.) solution of ethyl 2-oxo-2-[N-methyl-N-(pyrimidin-2-yl)methylamino]acetate from the previous step (1.43 g, 5.85 mmol) and 1-(3-chloro-4-fluorobenzyl)-5,6-dihydropyridin-2(1H)-one (1 g, 5 mmol) in anhydrous THF (10 mL) was added LiHMDS (1 M in THF) (1.02 g, 6.09 mmol) dropwise. The reaction mixture was stirred for 10 min at −78° C., warmed to room temperature for 2.5 hours, then heated to 40° C. for 48 hours. The mixture was cooled to ambient temperature and the solvent was removed under vacuum. The residual material was purified using reverse phase HPLC on a C18 stationary phase eluting with 5%-95% acetonitrile (0.1% TFA) in H2O (0.1% TFA) to give the title compound as a mixture of enantiomers. The hydrogens at positions 4a and 5 were found to have a trans relationship to one another. The enantiomers were separated on a ChiralPak AD column with 1:1 EtOH:MeOH as the mobile phase. The first eluting enantiomer had a positive sign of rotation and the following properties: 1H NMR (400 MHz, CD3OD), δ8.76 (d, J=4.8 Hz, 2H), 7.41 (t, J=4.8 Hz, 1H), 7.23 (dd, J=8.5, 5.5 Hz, 2H), 7.01 (t, J=Hz, 2H), 4.81 (d, J=6.7 Hz, 1H), 4.57 (d, J=15 Hz, 1H), 4.47 (d, J=15 Hz, 1H), 3.63 (m, 1H), 3.2-3.4 (m, 2H), 2.91 (s, 3H), 2.11 (m, 1H), 0.96 (dq, Jd=4.5 Hz, Jq=13 Hz, 1H). ES MS M+1=383. The second eluting enantiomer had a negative sign of rotation and 1H NMR and MS properties identical to that of the first eluting enantiomer.

reactant | ethyl 2-oxo-2-[N-methyl-N-(pyrimidin-2-yl)methylamino]acetate | O=C(C(=O)OCC)N(CC1=NC=CC=N1)C | C10H13N3O3
reactant | 1-(3-chloro-4-fluorobenzyl)-5,6-dihydropyridin-2(1H)-one | 5 mmol, 1 g | ClC=1C=C(CN2C(C=CCC2)=O)C=CC1F | C12H11ClFNO
reactant | LiHMDS | 6.09 mmol, 1 M, 1.02 g | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-(Pyrimidin-2-yl)-2-(4-fluorobenzyl)-8-hydroxy-6-methyl-2,3,4,4a,5,6-hexahydro-2,6-naphthyridine-1,7-dione | N1=C(N=CC=C1)C1C2CCN(C(C2=C(C(N1C)=O)O)=O)CC1=CC=C(C=C1)F | C20H19FN4O3
